US07115611B2
B] 2-(4-Acetoxy-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of 3.0 g (11.2 mmol) of 2-(4-acetyl-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester in 30 ml dichloromethane was treated with 4.1 g (70%, 16.8 mmol) of 3-chloro perbenzoic acid. The reaction was stirred at RT. After 1 day additional 1.2 g (70%, 4.7 mmol), after 2 days 0.8 g (70%, 3.1 mmol) and after 3 days 0.6 g (70%, 2.3 mmol) of 3-chloro perbenzoic acid were added. The mixture was poured on ice/aqueous 10% disodium pyroslfite solution and extracted with ether (3×). The organic phases were washed with aqueous 10% NaHCO3, aqueous saturated NH4Cl, aqueous 10% NaCl and dried over sodium sulfate to give 3.2 g of the title compound as light yellow oil.

reactant | 2-(4-acetyl-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 11.2 mmol, 3.0 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)C(C)=O)F)=O | C14H17FO4
reactant | 3-chloro perbenzoic acid | 16.8 mmol, 4.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloro perbenzoic acid | 2.3 mmol, 0.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-Acetoxy-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 3.2 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OC(C)=O)F)=O | C14H17FO5
